US04838924
2,3-Dihydro-2,2-dimethyl-7-(4-nitrophenoxy)-4H-1-benzopyran (an intermediate of compound No. 172)
2,3-Dihydro-2,2-dimethyl-7-hydroxy-4H-1-benzopyran (2.0 g) synthesized as in Referential Example 19, 1.8 g of p-chloronitrobenzene, 0.9 g of potassium hydroxide, 20 ml of N,N-dimethylformamide and 10 ml of toluene were put into a flask equipped with the DeanStark condenser, and were heated to 110° C. While removing evaporated water as an azeotrope with toluene, the reaction was carried out for 1 hour. After cooling, the reaction mixture was poured into water, and extracted with ethyl acetate. The extract was dried over magnesium sulfate, and the solvents were evaporated. The residue was purified by column chromatography to give 2.8 g (yield 84%) of the desired product as a brown liquid.

reactant | 2,3-Dihydro-2,2-dimethyl-7-hydroxy-4H-1-benzopyran | 2.0 g | CC1(OC2=C(CC1)C=CC(=C2)O)C | C11H14O2
reactant | p-chloronitrobenzene | 1.8 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-2,2-dimethyl-7-(4-nitrophenoxy)-4H-1-benzopyran | 2.8 g, yield 84% | CC1(OC2=C(CC1)C=CC(=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C | C17H17NO4
